US07402581B2
A stream of ethylamine was introduced to ice-cooled CH2Cl2 (5 mL) until 350 mg gas had been consumed. A solution of (2S)-2-(4-fluorophenyl)pent-4-enoyl chloride (0.24 g in 5 mL of CH2Cl2, 1.1 mmol) was added dropwise. The mixture was stirred at room temperature for 1 h and then diluted with CH2Cl2 (10 mL). The solution was washed with aqueous solutions of KHSO4 (8 mL, 1M), NaOH (8 mL, 1M) and then brine. The organic solution was dried over Na2SO4 and then the solvent was evaporated. There was obtained 0.15 g (59%) of (2S)-N-ethyl-2-(4-fluorophenyl)pent-4-enamide. 1H NMR (500 MHz, CDCl3): 1.1 (t, 3H), 2.5 (m, 1H), 2.8-3.0 (m, 2H), 3.2-3.4 (m, 3H), 5.0-5.1 (m, 2H), 5.6-5.8 (m, 1H), 7.0 (t, 2H), 7.3 (m, 2H).

reactant | ethylamine | C(C)N | C2H7N
reactant | (2S)-2-(4-fluorophenyl)pent-4-enoyl chloride | 1.1 mmol, 5 mL, 0.24 g | FC1=CC=C(C=C1)[C@@H](C(=O)Cl)CC=C | C11H10ClFO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (2S)-N-ethyl-2-(4-fluorophenyl)pent-4-enamide | 0.15 g, 59% | C(C)NC([C@@H](CC=C)C1=CC=C(C=C1)F)=O | C13H16FNO
